US07211595B2
3′,5-dichloro(1,1′-biphenyl)-2-yl methyl ether
A suspension of 4-chloro-2-iodo-1-methoxybenzene (2.5 g, 9.3 mmol) and 3-chlorophenylboronic acid (2.2 g, 13.9 mmol) in a mixture of toluene (10 mL), dioxane (10 mL), and 2N Na2CO3 (10 mL) was treated with tetrakis(triphenylphosphine)-palladium (0) (0.54 g, 0.47 mmol), heated to reflux for 16 hours, cooled to room temperature, and extracted with ethyl acetate. The combined extracts were dried (MgSO4), filtered, and concentrated. The concentrate was purified by flash column chromatography on silica gel with 20:1 hexanes/ethyl acetate to provide 2.5 g (100%) of the desired product. MS (DCI/NH3) m/z 254 (M+H)+; 1H NMR (CDCl3) δ 7.75-7.23 (m, 6H), 6.91 (d, 1H), 3.80 (s, 3H).

reactant | 4-chloro-2-iodo-1-methoxybenzene | 9.3 mmol, 2.5 g | ClC1=CC(=C(C=C1)OC)I | C7H6ClIO
reactant | 3-chlorophenylboronic acid | 13.9 mmol, 2.2 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | dioxane | 10 mL | O1CCOCC1 | C4H8O2
reactant | Na2CO3 | 2N, 10 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)-palladium (0) | 0.47 mmol, 0.54 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3′,5-dichloro(1,1′-biphenyl)-2-yl methyl ether | 2.5 g, 100% | COC=1C(=CC(=CC1)Cl)C1=CC(=CC=C1)Cl | C13H10Cl2O
